US04806535
3-[4-(1H-IMIDAZOL-1-YL)BENZOYL]-2-CARBOMETHOXYPYRIDINE
A solution of 3-(4-fluorobenzoyl)-2-carbomethoxypyridine (2.37 g, 9.14 mmol) in 30 mL of DMF is added dropwise to a solution of NaH (0.43 g, 10.75 mmol) and imidazole (0.62 g, 9.14 mmol) in 26 mL of DMF. The mixture is heated at 120° C. for 1 day, then allowed to cool, quenched with ice H2O, and extracted with EtOAc (3×50 mL). The combined organic layers are dried (Na2SO4), evaporated, and the residue chromatographed on silica gel (eluting with EtOAc-CH3OH, 9:1) to generate 3-[4-(1H-imidazol-1-yl)benzoyl]-2-carbomethoxypyridine. M.P. 150°-157° C.

reactant | 3-(4-fluorobenzoyl)-2-carbomethoxypyridine | 9.14 mmol, 2.37 g | FC1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)OC)C=C1 | C14H10FNO3
reactant | NaH | 10.75 mmol, 0.43 g | [H-].[Na+]
reactant | imidazole | 9.14 mmol, 0.62 g | N1C=NC=C1 | C3H4N2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | DMF | 26 mL | CN(C)C=O | C3H7NO
product | 3-[4-(1H-IMIDAZOL-1-YL)BENZOYL]-2-CARBOMETHOXYPYRIDINE | N1(C=NC=C1)C1=CC=C(C(=O)C=2C(=NC=CC2)C(=O)OC)C=C1 | C17H13N3O3
